US09301951B2
Intermediate 270b: benzyl 3-(1-(tosyloxy)-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate
Into a 500-mL 3 neck round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of benzyl 3-(1-hydroxy-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate (25.2 g, 56.88 mmol, 1.00 equiv) in dichloromethane (300 mL), triethylamine (17.2 g, 170.30 mmol, 3.00 equiv). This was followed by the addition of a solution of 4-methylbenzene-1-sulfonyl chloride (16.3 g, 85.34 mmol, 1.50 equiv) in dichloromethane (100 mL) dropwise with stirring at 0° C. The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with petroleum ether/ethyl acetate (5:1-1:1). This resulted in 31 g (91%) of benzyl 3-(1-(tosyloxy)-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate as a brown oil.

reactant | benzyl 3-(1-hydroxy-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate | 56.88 mmol, 25.2 g, 1.00 equiv | OCCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C25H30O7
reactant | triethylamine | 170.30 mmol, 17.2 g, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzene-1-sulfonyl chloride | 85.34 mmol, 16.3 g, 1.50 equiv | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | benzyl 3-(1-(tosyloxy)-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C32H36O9S
